US04863920
2.35 g (42 mmol) of freshly powdered potassium hydroxide was stirred in 30 ml of dimethyl sulfoxide for 5 minutes. There were then added in succession 4.0 g (11.25 mmol) of 7-chloro-4,5-dihydro-3-[(1-hydroxycyclopentyl)ethynyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine-one and 3.12 g (22.5 mmol) of methyl iodide and the mixture was stirred for a further 1 hour before the dimethyl sulfoxide was removed by evaporation. The residue was taken up in water and extracted three times with methylene chloride. The combined organic extracts were dried over magnesium sulphate, evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate/hexane (1:1). After recrystallization from ethyl acetate there was obtained 7-chloro-4,5-dihydro-3-[(1-methoxycyclopentyl)ethynyl]-5-methyl-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one of melting point 174°-175°.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 7-chloro-4,5-dihydro-3-[(1-hydroxycyclopentyl)ethynyl]-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepine-one | 11.25 mmol, 4.0 g | ClC1=CC=CC2=C1CN(CC=1N2C(NC1C#CC1(CCCC1)O)=O)C | C19H20ClN3O2
reactant | methyl iodide | 22.5 mmol, 3.12 g | CI | CH3I
solvent | dimethyl sulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 7-chloro-4,5-dihydro-3-[(1-methoxycyclopentyl)ethynyl]-5-methyl-6H-imidazo[1,5-a][1,4]-benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC1(CCCC1)OC)C)=O | C20H20ClN3O2
